US06096735
To a solution of 2-(4-bromo-2-methylphenyl)-4,4-dimethyl-2-oxazoline (5 g) in dry tetrahydrofuran (40 ml) is added dropwise a 1.6M solution of n-butyl lithium in n-hexane (14.0 ml) at -70° C. The mixture is stirred at the same temperature for 30 minutes, and thereto is added dropwise cyclohexanone (2.1 ml), and the mixture is stirred for one hour. To the mixture is added water, and the mixture is evaporated to remove the tetrahydrofuran, and then extracted with diethyl ether. The diethyl ether layer is dried over anhydrous magnesium sulfate, evaporated to remove the solvent, and the residue is purified by silica gel column chromatography (solvent; dichloromethane:methanol=100:1→60:1), recrystallized from acetone/n-hexane to give 2-[4-(1-hydroxy-1-cyclohexyl)-2-methylphenyl]-4,4-dimethyl-2-oxazoline (4.29 g) as white powder.

reactant | 2-(4-bromo-2-methylphenyl)-4,4-dimethyl-2-oxazoline | 5 g | BrC1=CC(=C(C=C1)C=1OCC(N1)(C)C)C | C12H14BrNO
reactant | n-butyl lithium | C(CCC)[Li]
reactant | cyclohexanone | 2.1 ml | C1(CCCCC1)=O | C6H10O
reactant | water | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 14.0 ml | CCCCCC | C6H14
product | 2-[4-(1-hydroxy-1-cyclohexyl)-2-methylphenyl]-4,4-dimethyl-2-oxazoline | 4.29 g | OC1(CCCCC1)C1=CC(=C(C=C1)C=1OCC(N1)(C)C)C | C18H25NO2
